US05696256
A mixture consisting of 1 g N-(2-chloro-5-thiazolylmethyl)-S-methyl-N'-nitroisothiourea, 1.15 g acetic anhydride and 25 ml pyridine was stirred at room temperature for 3 hours. The reaction mixture was added into an aqueous hydrochloric acid solution (concentrated hydrochloric acid 20 ml, water 50 ml, ice 10 g) for separation into layers. The resultant aqueous layer was extracted with 120 ml of chloroform, while the resultant organic layers were combined together, dried over magnesium sulfate and concentrated to afford 1.15 g of N-acetyl-N-(2-chloro-5-thiazolylmethyl)-S-methyl-N'-nitroisothiourea as a brown crystal, mp 77°-78° C.

reactant | N-(2-chloro-5-thiazolylmethyl)-S-methyl-N'-nitroisothiourea | 1 g | ClC=1SC(=CN1)CNC(SC)=N[N+](=O)[O-] | C6H7ClN4O2S2
reactant | acetic anhydride | 1.15 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 20 ml, 10 g | Cl | ClH
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-acetyl-N-(2-chloro-5-thiazolylmethyl)-S-methyl-N'-nitroisothiourea | 1.15 g | C(C)(=O)N(C(SC)=N[N+](=O)[O-])CC1=CN=C(S1)Cl | C8H9ClN4O3S2
